US09302988B2
Step 2: Ethyl 3-(4-chlorophenyl)-4-methyl-1H-pyrrole-2-carboxylate
2.6 mmol TBD/g polystyrene (21.4 g, 55.7 mmol) was added to a suspension of (E)-1-chloro-4-(2-nitroprop-1-enyl)benzene (10 g, 50.6 mmol) and ethyl 2-isocyanoacetate (6.01 g, 53.1 mmol) in i-PrOH (40 mL) and dry THF (40 mL). The reaction mixture was stirred at room temperature overnight. The suspension was filtered, washed with i-PrOH/THF (1/1, v/v, 40 mL). The combined filtrate was evaporated under reduced pressure to furnish 11.0 g (82%) of the desired product.

reactant | (E)-1-chloro-4-(2-nitroprop-1-enyl)benzene | 50.6 mmol, 10 g | ClC1=CC=C(C=C1)\C=C(/C)\[N+](=O)[O-] | C9H8ClNO2
reactant | ethyl 2-isocyanoacetate | 53.1 mmol, 6.01 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
solvent | i-PrOH | 40 mL | CC(C)O | C3H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Ethyl 3-(4-chlorophenyl)-4-methyl-1H-pyrrole-2-carboxylate | 11.0 g, 82% | ClC1=CC=C(C=C1)C1=C(NC=C1C)C(=O)OCC | C14H14ClNO2
